US07612114B2
Synthesized from 1-bromo-3,4-dimethoxybenzene according to an analogous synthetic method to Preparation Example 108, 1-bromo-4,5-dimethoxy-2-nitrobenzene (7.5 g) and 7-benzyloxy-3-bromo-1,2-dihydronaphthalene (4.5 g) were used according to an analogous synthetic method to Preparation Example 107 to provide 7-benzyloxy-3-(4,5-dimethoxy-2-nitrophenyl)-1,2-dihydronaphthalene (1.3 g). The total amount of this compound was used according to an analogous synthetic method to Example 30 to provide the title compound (822 mg).

reactant | 1-bromo-3,4-dimethoxybenzene | BrC1=CC(=C(C=C1)OC)OC | C8H9BrO2
reactant | 1-bromo-4,5-dimethoxy-2-nitrobenzene | 7.5 g | BrC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C8H8BrNO4
reactant | 7-benzyloxy-3-bromo-1,2-dihydronaphthalene | 4.5 g | C(C1=CC=CC=C1)OC1=CC=C2C=C(CCC2=C1)Br | C17H15BrO
product | 7-benzyloxy-3-(4,5-dimethoxy-2-nitrophenyl)-1,2-dihydronaphthalene | 1.3 g | C(C1=CC=CC=C1)OC1=CC=C2C=C(CCC2=C1)C1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C25H23NO5
